US06071927
2-Bromo-4-(methanesulfonyl)anisole
Potassium carbonate (2.31 g, 16.8 mmol) was added to a solution of 2-bromo-4-(methanesulfonyl)phenol (Description 27; 3.5 g, 14 mmol) in dimethylformamide (50 ml). The resulting solution was stirred for 30 min. and methyl iodide (1.04 ml, 16.8 mmol). After stirring for 1 h. the solution was poured into water (200 ml) and extracted with ethyl acetate (2×100 ml). The combined organics were washed with water and dried over sodium sulphate. Removal of the solvent in vacuo gave a white solid which was crystallised from diethyl ether to give the title compound (2.02 g). 1H NMR (250 MHz, CDCl3) δ8.12-8.11 (1H, d, J 2.2 Hz), 7.90-7.86 (1H, dd, J 8.7, 2.2 Hz), 7.04-7.00 (1H, d, J 8.7 Hz), and 3.99 (3H, s), and 3.05 (3H, s).

reactant | Potassium carbonate | 16.8 mmol, 2.31 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromo-4-(methanesulfonyl)phenol | 14 mmol, 3.5 g | BrC1=C(C=CC(=C1)S(=O)(=O)C)O | C7H7BrO3S
reactant | methyl iodide | 16.8 mmol, 1.04 ml | CI | CH3I
reactant | water | 200 ml | O | H2O
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 2-Bromo-4-(methanesulfonyl)anisole | 2.02 g | BrC1=C(C=CC(=C1)S(=O)(=O)C)OC | C8H9BrO3S
